US04713393
Approximately a 1:1 ratio of cis and trans isomers of 1-(5-benzyloxy-2,3-dihydrobenzofuran-6-yl)-2-(1-methylimidazol-2-yl)ethene (104 mg, 0.3 mmoles) was hydrogenated in ethyl alcohol (15 ml) at room temperature using 10% Pd/C (15 mg) as a catalyst which was removed by suction filtration of the reaction mixture through a bed of celite. The catalyst bed was washed with ethyl alcohol (2×10 ml) and the filtrate was evaporated in vacuo to afford a white solid. Recrystallization from methlene chloride/n-hexane produced 6-(2-(1-methylimidazol-2-yl)ethyl)-5-hydroxy-2,3-dihydrobenzofuran as fine white crystals (60 mg, 79%). m.p. 190°-191° C.

reactant | 1-(5-benzyloxy-2,3-dihydrobenzofuran-6-yl)-2-(1-methylimidazol-2-yl)ethene | 0.3 mmoles, 104 mg | C(C1=CC=CC=C1)OC=1C(=CC2=C(CCO2)C1)C=CC=1N(C=CN1)C | C21H20N2O2
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 6-(2-(1-methylimidazol-2-yl)ethyl)-5-hydroxy-2,3-dihydrobenzofuran | 60 mg, 79% | CN1C(=NC=C1)CCC1=CC2=C(CCO2)C=C1O | C14H16N2O2
